US06498172B1
(3-{[(5-Chloro-thiophene-2-sulfonyl)-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
The title compound of Step A was prepared following the method described in Step A of Example 13w from {3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, prepared in Step A of Example 13i, and 5-chlorothiophene-2-sulfonyl chloride with the following exception. The sulfonyl chloride was dissolved in CH2Cl2 (1 mL) and 0.28 mL was added to the reaction mixture. 1H NMR (400 MHz, CDCl3) δ 8.03 (d, 1H), 7.79 (d, 2H), 7.43 (d, 1H), 7.34 (d, 1H), 7.24 (m, 3H), 7.13 (m, 1H), 6.94 (d, 1H), 6.76 (m, 1H), 6.68 (m, 2H), 4.41 (s, 2H), 4.35 (s, 2H), 4.30 (s, 2H), 1.48 (s, 9H); MS 591 (M+).

reactant | {3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1SC=CN1)=O | C23H26N2O3S
reactant | 5-chlorothiophene-2-sulfonyl chloride | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (3-{[(5-Chloro-thiophene-2-sulfonyl)-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C=1SC=CN1)S(=O)(=O)C=1SC(=CC1)Cl)=O | C27H27ClN2O5S3
